US04963564
2-[6-[(6-Bromohexyl)oxy]hexyl]pyridine
2-Pyridinehexanol (4.88 g), 1,6-dibromohexane (12.6 ml), 12.5M aqueous sodium hydroxide (25 ml) and TAB (0.45 g) were stirred rapidly at room temperature for 7 h. The mixture was diluted with water (60 ml) and extracted with diethyl ether (3×60 ml). The combined organic extracts were washed with water (60 ml) and brine (60 ml), dried and concentrated to give an oil which was purified by FCC eluting with diethyl ether-hexane (0:1→1:1) to give the title compound as a colourless oil (4.52 g), t.l.c. (ether-hexane 1:1) Rf 0.25.

reactant | 2-Pyridinehexanol | 4.88 g | N1=C(C=CC=C1)CCCCCCO | C11H17NO
reactant | 1,6-dibromohexane | 12.6 ml | BrCCCCCCBr | C6H12Br2
reactant | sodium hydroxide | 12.5M, 25 ml | [OH-].[Na+]
solvent | water | 60 ml | O | H2O
product | 2-[6-[(6-Bromohexyl)oxy]hexyl]pyridine | 4.52 g | BrCCCCCCOCCCCCCC1=NC=CC=C1 | C17H28BrNO
